US05045541
To a mixture of 1.4 g of 8-hydroxy-2-(2-pyridyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one, 1.4 g of potassium carbonate and 30 ml of dimethylformamide is added 1.3 g of N-(3-chloropropyl)morpholine, and the mixture is stirred at 55° C. for 3 hours. After the completion of the reaction, water is added to the reaction mixture and the mixture is extracted with ethyl acetate. The extract is washed with water and dried over magnesium sulfate. The solvent is distilled off under reduced pressure. The obtained oily substance is purified by silica gel column chromatography (chloroform : methanol =10 : 1) and converted into the hydrochloride in methanol, which is recrystallized from methanol to give 0.6 g of 8-(3-morpholinopropoxy)-2-(2-pyridyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one. dihydrochloride.dihydrate as white crystals, m.p. 201°-202° C. (decomposition).

reactant | 8-hydroxy-2-(2-pyridyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | 1.4 g | OC=1C=CC2=C(CCC3CC(N(N=C23)C2=NC=CC=C2)=O)C1 | C17H15N3O2
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | N-(3-chloropropyl)morpholine | 1.3 g | ClCCCN1CCOCC1 | C7H14ClNO
solvent | water | O | H2O
product | 8-(3-morpholinopropoxy)-2-(2-pyridyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one. dihydrochloride | 0.6 g | Cl.Cl.O1CCN(CC1)CCCOC=1C=CC2=C(CCC3CC(N(N=C23)C2=NC=CC=C2)=O)C1 | InChI=1S/C24H28N4O3.2ClH/c29-23-17-19-6-5-18-16-20(31-13-3-10-27-11-14-30-15-12-27)7-8-21(18)24(19)26-28(23)22-4-1-2-9-25-22;;/h1-2,4,7-9,16,19H,3,5-6,10-15,17H2;2*1H
